US07196104B2
Preparation AC: 2-(Butyloxycarbonyl)amino-6-methylpyridine
To a 2-L 3-neck Miller flask charged with 2-amino-6-methylpicoline (15 g, 138.7 mmol) and dry THF (1 L) was added di-tert-butyl dicarbonate (33.3 g, 152.6 mmol) then TEA (21.2 mL, 152.6 mmol) via addition funnel at 0° C. The reaction mixture was warmed to RT and added DMAP (1.7 g, 13.9 mmol). After 3.5 h, extracted with EtOAc, washed with saturated NH4Cl, H2O (3×), and brine (3×), dried (MgSO4) and concentrated in vacuo to afford the crude material as a turbid yellow oil. Trituration with hexane formed a precipitate which was filtered and the filtrate was concentrated in vacuo to give the title compound as a yellow oil.

reactant | 2-amino-6-methylpicoline | 138.7 mmol, 15 g | NC1(NC(=CC=C1)C)C | C7H12N2
reactant | THF | 1 L | C1CCOC1 | C4H8O
reactant | di-tert-butyl dicarbonate | 152.6 mmol, 33.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 13.9 mmol, 1.7 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | hexane | CCCCCC | C6H14
product | 2-(Butyloxycarbonyl)amino-6-methylpyridine | C(CCC)OC(=O)NC1=NC(=CC=C1)C | C11H16N2O2
